US04711889
A mixture of 9.75 g of 9-acridanone, 200 ml of dimethylformamide and 4.8 g sodium hydride is stirred for 0.5 hour, treated portionwise with 17.8 g of 2-[4-[2-(diethylamino)ethyl]-1-piperazinyl]ethyl chloride trihydrochloride, stirred at 70° for 18 hours, then heated to boiling under reflux for 8 hours and evaporated. The residue is treated with 100 ml of water and extracted with dichloromethane. The extract is washed with water, dried and evaporated. The product is crystallized twice from petroleum ether and there is obtained 10-[2-[4-[2-(diethylamino)ethyl]-1-piperazinyl]ethyl-9-acridanone of melting point 106°-108°.

reactant | 9-acridanone | 9.75 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 2-[4-[2-(diethylamino)ethyl]-1-piperazinyl]ethyl chloride trihydrochloride | 17.8 g | Cl.Cl.Cl.C(C)N(CCN1CCN(CC1)CCCl)CC
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-[4-[2-(diethylamino)ethyl]-1-piperazinyl]ethyl-9-acridanone | C(C)N(CCN1CCN(CC1)CCC1=CC=CC=2NC3=CC=CC=C3C(C12)=O)CC | C25H34N4O
